US07538112B2
Step 1: 2-(3-Chloro-4-fluorobenzyl)-8-ethyl-4-fluoro-10-methoxy-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
To a stirred, cold (0° C.) solution of 4-amino-2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-ethyl-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (0.55 g, 1.26 mmol) in hydrogen fluoride-pyridine (9.5 mL) in a polyethylene tube, solid sodium nitrite (96 mg, 1.38 mmol) was added in small portions over a period of 10 minutes. The reaction mixture was stirred at room temperature for 1 hour. The product mixture was added dropwise into an ice-cold saturated aqueous sodium bicarbonate solution. The resultant mixture was extracted with ethyl acetate. The combined organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to afford the title material.

reactant | 4-amino-2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-ethyl-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 1.26 mmol, 0.55 g | NC1=NN(C(C2=C1N1C(=C2OC)C(N(CC1C)CC)=O)=O)CC1=CC(=C(C=C1)F)Cl | C20H21ClFN5O3
reactant | sodium nitrite | 1.38 mmol, 96 mg | N(=O)[O-].[Na+]
reactant | hydrogen fluoride-pyridine | 9.5 mL | N1=CC=CC=C1.F
product | 2-(3-Chloro-4-fluorobenzyl)-8-ethyl-4-fluoro-10-methoxy-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3C(CN(C2=O)CC)C)OC)F)C=CC1F | C20H19ClF2N4O3
